US04367238
Powdered sodium cyanide (3.65 g) was added to a solution of 2-chlorophenyl 2-acetoxy-3-bromomethylphenyl ether (22 g) in dimethylsulfoxide (80 ml) with stirring at room temperature, and the mixture was stirred at the same temperature for 10 minutes. Water (200 ml) was added to the reaction mixture and extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and then evaporated to give oily 2-[2-acetoxy-3-(2-chlorophenoxy)phenyl]acetonitrile (19 g).

reactant | sodium cyanide | 3.65 g | [C-]#N.[Na+]
reactant | 2-chlorophenyl 2-acetoxy-3-bromomethylphenyl ether | 22 g | C(C)(=O)OC1=C(C=CC=C1CBr)OC1=C(C=CC=C1)Cl | C15H12BrClO3
reactant | Water | 200 ml | O | H2O
solvent | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
product | 2-[2-acetoxy-3-(2-chlorophenoxy)phenyl]acetonitrile | 19 g | C(C)(=O)OC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CC#N | C16H12ClNO3
